US08030500B2
2-(2-Bromopyridine-4-carbonyl)-6-fluorobenzonitrile
To a degassed solution of S-ethyl 2-bromopyridine-4-carbothioate (5.0 g, 20.3 mmol) in anhydrous toluene (50 mL), Pd(OAc)2 (0.82 g, 3.66 mmol) was added followed by dropwise addition of 2-cyano-3-fluorophenylzinc iodide (0.5M in THF, 36.6 mL, 18.3 mmol). The reaction mixture was stirred at room temperature for 2 hours with continued bubbling of nitrogen. Water (50 mL) and saturated aqueous NH4Cl (100 mL) were added and the resulting mixture was extracted with ethyl acetate (2×200 mL). The combined organic extracts were washed with brine, dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by flash column chromatography using a gradient of 25% to 100% ethyl acetate in hexanes to afford 3.4 g of the title compound (1.5 g, 27%).

reactant | S-ethyl 2-bromopyridine-4-carbothioate | 20.3 mmol, 5.0 g | BrC1=NC=CC(=C1)C(SCC)=O | C8H8BrNOS
reactant | 2-cyano-3-fluorophenylzinc iodide | 18.3 mmol, 0.5M, 36.6 mL | [I-].C(#N)C1=C(C=CC=C1F)[Zn+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 3.66 mmol, 0.82 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-(2-Bromopyridine-4-carbonyl)-6-fluorobenzonitrile | 3.4 g, 27% | BrC1=NC=CC(=C1)C(=O)C1=C(C#N)C(=CC=C1)F | C13H6BrFN2O
